US04820734
A solution of 28.5 g (0.09 mol) of rac-(2S*)-2-[(R*)-3,4-dichloro-α-(nitromethyl)benzyl]cyclohexanone in 500 ml of dry tetrahydrofuran is added dropwise to a suspension of 8.53 g (0.22 mol) of lithium aluminum hydride in 200 ml of dry tetrahydrofuran under argon so that temperature does not exceed 50°, whereupon the mixture is stirred at 50° for 15 hours. After cooling the reaction mixture is treated with tetrahydrofuran/water (1:1), the separated precipitate is filtered off under suction while washing with methylene chloride and the filtrate is evaporated. The thus-obtained oil is treated with 3N hydrochloric acid, whereupon the mixture is extracted twice with 500 ml of ether each time. The aqueous phase is made alkaline with 3N sodium hydroxide solution and extracted twice with 500 ml of methylene chloride each time. The organic phase is washed twice with 100 ml of water each time, dried over magnesium sulphate and evaporated. There is obtained a viscous oil which crystallizes from isopropyl ether/hexane. There is obtained rac-(1S*)-cis-2-[(R*)-α-(aminomethyl)-3,4-dichlorobenzyl]cyclohexanol in the form of colourless crystals of m.p. 117°-118°.

reactant | rac-(2S*)-2-[(R*)-3,4-dichloro-α-(nitromethyl)benzyl]cyclohexanone | 0.09 mol, 28.5 g | ClC=1C=C([C@H](C[N+](=O)[O-])C2C(CCCC2)=O)C=CC1Cl | C14H15Cl2NO3
reactant | lithium aluminum hydride | 0.22 mol, 8.53 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | tetrahydrofuran water | O1CCCC1.O
solvent | tetrahydrofuran | 500 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
product | rac-(1S*)-cis-2-[(R*)-α-(aminomethyl)-3,4-dichlorobenzyl]cyclohexanol | NC[C@@H](C1=CC(=C(C=C1)Cl)Cl)[C@@H]1[C@@H](CCCC1)O | C14H19Cl2NO
